US05981572
3-(2,3-Dihydro-5-fluorobenzofuran-4-yl)propylamine hydrochloride
N-[3-[2,3-Dihydro-5-fluorobenzofuran-4-yl]propyl]acetamide (0.55 g) was heated under reflux in 2M hydrochloric acid (10 ml) for 24 h. The mixture was cooled and washed with dichloromethane, basified with 2M sodium hydroxide and extracted with dichloromethane. Evaporation of the extracts gave an oil which was dissolved in 0.7M methanolic hydrogen chloride (8 ml). Evaporation gave the title compound as a beige solid (0.28 g).

reactant | N-[3-[2,3-Dihydro-5-fluorobenzofuran-4-yl]propyl]acetamide | 0.55 g | FC=1C=CC2=C(CCO2)C1CCCNC(C)=O | C13H16FNO2
reactant | hydrochloric acid | 2M, 10 ml | Cl | ClH
reactant | hydrogen chloride | 0.7M, 8 ml | Cl | ClH
product | 3-(2,3-Dihydro-5-fluorobenzofuran-4-yl)propylamine hydrochloride | 0.28 g | Cl.FC=1C=CC2=C(CCO2)C1CCCN | InChI=1S/C11H14FNO.ClH/c12-10-3-4-11-9(5-7-14-11)8(10)2-1-6-13;/h3-4H,1-2,5-7,13H2;1H
